US05190951
15.1 gm of methyl anthranilate and 9.0 gm of β-tetronic acid were dissolved into 100 ml of ethanol, and 2 ml of concentrated hydrochloric acid was added, followed by stirring for 15 hours at room temperature. Deposited crystals were collected by filtration, washed with cold ethanol, and dried to obtain 19.2 gm of methyl N-(2,5-dihydro-5-oxo-2-furanyl)anthranilate.

reactant | methyl anthranilate | 15.1 gm | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | β-tetronic acid | 9.0 gm | C1C(=O)COC1=O | C4H4O3
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | methyl N-(2,5-dihydro-5-oxo-2-furanyl)anthranilate | 19.2 gm | O=C1C=CC(O1)NC=1C(C(=O)OC)=CC=CC1 | C12H11NO4
